US09085552B1
3. Preparation of 3-(3-chloro-4-methyl-1H-pyrazol-1-yl)pyridine (3)
To a solution of 3-(3-chloro-4-methyl-4,5-dihydro-1H-pyrazol-1-yl)pyridine (1.0 g, 5.0 mol) in acetonitrile (10.0 mL) at 0° C. was added manganese(IV) oxide (1.3 g, 15 mmol) portionwise over 10 minutes. The mixture was slowly warmed to 22° C. over 40 minutes and then heated to 40° C. overnight. After 20 hours, additional manganese(IV) oxide (0.44 g, 5.0 mmol) was added in one portion and the mixture was stirred for 1 hour. The mixture was cooled down and filtered. The filter cake was washed with acetonitrile (3×15 mL). The organic filtrate was dried and concentrated to afford the title compound as a light yellow solid (0.92 g, 95%): 1H NMR (400 MHz, CDCl3) δ 8.90 (dd, J=2.6, 0.8 Hz, 1H), 8.52 (dd, J=4.8, 1.5 Hz, 1H), 7.99 (ddd, J=8.3, 2.7, 1.4 Hz, 1H), 7.74 (q, J=0.9 Hz, 1H), 7.39 (ddd, J=8.3, 4.8, 0.8 Hz, 1H), 2.13 (d, J=0.9 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 147.26, 142.87, 139.53, 135.90, 126.53, 125.69, 123.84, 116.86, 22.47; EIMS m/z 193 ([M]+).

reactant | 3-(3-chloro-4-methyl-4,5-dihydro-1H-pyrazol-1-yl)pyridine | 5.0 mol, 1.0 g | ClC1=NN(CC1C)C=1C=NC=CC1 | C9H10ClN3
solvent | acetonitrile | 10.0 mL | C(C)#N | C2H3N
catalyst | manganese(IV) oxide | 15 mmol, 1.3 g | [O-2].[Mn+4].[O-2]
catalyst | manganese(IV) oxide | 5.0 mmol, 0.44 g | [O-2].[Mn+4].[O-2]
product | 3-(3-chloro-4-methyl-1H-pyrazol-1-yl)pyridine | 0.92 g, 95% | ClC1=NN(C=C1C)C=1C=NC=CC1 | C9H8ClN3
